US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (14.3 g), a 2M ethanolic solution of sodium ethylate (25 cc) and ethyl (4-chlorophenylthio)acetate (11.5 g) in ethanol (100 cc). Diethyl 5-(4-chlorophenylthio)-2-dimethylamino-2,4-hexadienedioate (19 g) is thereby obtained, and is used in the crude state in the subsequent phases.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 14.3 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 25 cc | CC[O-].[Na+]
reactant | ethyl (4-chlorophenylthio)acetate | 11.5 g | ClC1=CC=C(C=C1)SCC(=O)OCC | C10H11ClO2S
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | Diethyl 5-(4-chlorophenylthio)-2-dimethylamino-2,4-hexadienedioate | 19 g | ClC1=CC=C(C=C1)SC(=CC=C(C(=O)OCC)N(C)C)C(=O)OCC | C18H22ClNO4S
